Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___.
 
Chief Complaint:
Chest pain, myalgia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ y/o woman with CVA, seizure d/o, PE on
anticoagulation admitted with right sided chest pain and
myalgias.   She has had a recent admission in ___
involving respiratory failure, tracheostomy placement and
treatment for VAP. She then developed RP bleed while
anticoagulation.   She presented to ED with myalgias and right
sided pleuritic chest pain, and she was found to have RLL/RML
pneumonia.

She finds it difficult to take deep breath due to pain on
anterior chest.  Would like more pain medicaitions, no
n/v/ha/cp/sob
 
Past Medical History:
- h/o HTN and DMII, resolved after gastric bypass per patient   
- s/p cholecystectomy and gastric bypass (___), with f/u 
complicated by multiple ex lap, gastrectomy, reversal surgery, 
failed J-tube c/b colonic perforation  
- multiple SBO during f/u from above  
- hernia repair  
- chronic abdominal pain, peptic ulcer disease   
- asthma, stroke (left sided), osteoarthritis, GERD, DVT/PE    
- narcotic abuse, tobacco abuse   
- depression, anxiety   
- muscle weakness / myelopathy, chronic low back pain    
- vulvar folliculitis  
- arthorplasty - right total knee    
- hepatitis C - positive ab test, negative HCV viral load in 2x 
tests  
- nephrolithiasis  
- thyromegaly - TSH wnl, low free T4  

 
Social History:
___
Family History:
Mother with diabetes and HTN. Brother with CHF
 
Physical Exam:
ADMISSION EXAM:

98.7  100 / 64 80 18 96 RA 
Gen:  Lying in bed, c/o right sided chest pain
Lung:  Limited by effort, but distinct rales in right side of
lung, ___ up from base.  No rhonchi
CV:  RRR
Abd:  Nabs, soft
Ext:  No edema

Patient examined on day of discharge. She was amble to ambulate 
with a walker with no desaturations. Her lungs were CTAB. AVSS
 
Pertinent Results:
LABORATORY RESULTS:

___ 12:45PM BLOOD WBC-3.3* RBC-4.04 Hgb-11.7 Hct-37.2 
MCV-92 MCH-29.0 MCHC-31.5* RDW-16.2* RDWSD-55.6* Plt ___
___ 04:07AM BLOOD WBC-2.8* RBC-3.30* Hgb-9.3* Hct-30.2* 
MCV-92 MCH-28.2 MCHC-30.8* RDW-16.2* RDWSD-55.2* Plt ___
___ 12:45PM BLOOD Glucose-126* UreaN-15 Creat-0.8 Na-136 
K-4.2 Cl-100 HCO3-19* AnGap-17
___ 04:07AM BLOOD Glucose-62* UreaN-9 Creat-0.5 Na-140 
K-4.4 Cl-100 HCO3-32 AnGap-8*
___ 12:45PM BLOOD ALT-28 AST-50* AlkPhos-88 TotBili-0.4
___ 07:38AM BLOOD Calcium-8.2* Phos-3.0 Mg-1.4*
___ 05:13AM BLOOD Calcium-8.7 Phos-4.3 Mg-1.7
___ 12:52PM BLOOD Lactate-5.0*
___ 03:36PM BLOOD Lactate-2.9*

CHEST X-RAY

Right lower lobe consolidation compatible with pneumonia. 

CT Abdomen/pelvis

1. Dense ground-glass opacification in the right middle and 
lower lobes is 
only partially evaluated on current exam but may be suggestive 
of pneumonia. 
2. Left retroperitoneal and left iliacus fluid collections are 
smaller 
compared to prior exam dated ___, and most likely 
represent 
evolving hematomas. 
3. Mild intrahepatic biliary dilatation of the left hepatic lobe 
appears 
mildly increased compared to ___ (02:22) potentially 
secondary to 
post-cholecystectomy changes.  Recommend clinical correlation 
with LFTs. 
4. Stable appearance of a urethral diverticulum with 
intraluminal 
calcification. 
  
SPUTUM CULTURE

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI IN 
PAIRS. 
      2+   ___ per 1000X FIELD):   BUDDING YEAST WITH 
PSEUDOHYPHAE. 

   RESPIRATORY CULTURE (Preliminary): 
      MODERATE GROWTH Commensal Respiratory Flora. 
      GRAM NEGATIVE ROD WORKUP REQUESTED BY ___ ___ 
___. 
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH. 
      GRAM NEGATIVE ROD #2.    RARE GROWTH. 
      PSEUDOMONAS AERUGINOSA.    RARE GROWTH. 
 
Brief Hospital Course:
Ms. ___ was admitted with shortness of breath, hypoxia, and 
pleuritic chest pain and found to have a large RML and RLL 
pneumonia on chest imaging. Because of her recent admission for 
a resistant pseudomonal ventilar-associated pneumonia (treated 
with 10 days of IV ceftazadime), she was empirically started on 
vancomycin and ceftazidime, first day ___. Her hypoxia 
rapidly improved, and by HD#3 she was saturating normally. A 
sputum culture was obtained, which is growing a small amount of 
pseudomonas. I discussed with the infectious disease team -- 
given her improvement with a nine day course of ceftazadime, she 
should be sufficiently treated for a pseudomonal pneumonia. She 
will discharge home on now antibiotics, and will follow up with 
the ID team in ___ weeks to further discuss. If her cultures 
show any resistance, I will follow up with her and discuss 
further IV antibiotics.

Otherwise, on HD#2 she had a tonic clonic seizure in the setting 
of her mother visiting and developing an acute gastroenteritis, 
requiring admission to the hospital. She had no other seizure 
activities. A Keppra level was sent, which is still pending. She 
is being discharged on her home AEDs.

HOSPITAL COURSE BY PROBLEM.

1. Pseudomonal pneumonia
2. Pleuritic chest pain.
No further antibiotics and follow up in ___ clinic as above. She 
was started on Dilaudid for pleuritic chest pain; this was 
tapered over the course of the hospitalization, and she will 
discharge with #10 hydromorphone 2 mg. PMP checked showing only 
prescribed meds by PCP.

3. Epilepsy with an acute GTC seizure.
- home lacosamide
- home Keppra
- f/u Keppra levels

4. Deconditioning. Evaluated by ___ who recommends home ___ on 
discharge. They will see her.

5. History of PE. Home apixaban.

6. Chronic pain. Home methadone.

TRANSITIONAL ISSUES:
- I will follow up sputum cultures and contact patient if 
resistance
- follow up in ___ clinic
- follow up Keppra levels
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
2. Apixaban 5 mg PO BID 
3. Cyanocobalamin 100 mcg PO DAILY 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
5. Ferrous Sulfate 325 mg PO DAILY 
6. LACOSamide 200 mg PO BID 
7. LevETIRAcetam 1500 mg PO Q12H 
8. Methadone 10 mg PO TID 
9. Multivitamins W/minerals Liquid 15 mL PO DAILY 
10. QUEtiapine Fumarate 75 mg PO QHS 
11. Senna 8.6 mg PO BID:PRN constipation 
12. Sucralfate 1 gm PO QID:PRN GI upset 
13. Vitamin D 1000 UNIT PO DAILY 
14. Omeprazole 20 mg PO DAILY 
15. Doxepin HCl 10 mg PO HS 
16. Gabapentin 100 mg PO BID 
17. Gabapentin 200 mg PO DAILY 
18. Promethazine 12.5 mg PO BID:PRN nausea 
19. DULoxetine 40 mg PO DAILY 

 
Discharge Medications:
1.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Severe 
RX *hydromorphone 2 mg 1 tablet(s) by mouth Every six hours as 
needed Disp #*15 Tablet Refills:*0 
2.  Methadone 10 mg PO TID  
3.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
4.  Apixaban 5 mg PO BID  
5.  Cyanocobalamin 100 mcg PO DAILY  
6.  Docusate Sodium 100 mg PO BID:PRN constipation  
7.  Doxepin HCl 10 mg PO HS  
8.  DULoxetine 40 mg PO DAILY  
9.  Ferrous Sulfate 325 mg PO DAILY  
10.  Gabapentin 100 mg PO BID  
11.  Gabapentin 200 mg PO DAILY  
12.  LACOSamide 200 mg PO BID  
13.  LevETIRAcetam 1500 mg PO Q12H  
14.  Multivitamins W/minerals Liquid 15 mL PO DAILY  
15.  Omeprazole 20 mg PO DAILY  
16.  Promethazine 12.5 mg PO BID:PRN nausea  
17.  QUEtiapine Fumarate 75 mg PO QHS  
18.  Senna 8.6 mg PO BID:PRN constipation  
19.  Sucralfate 1 gm PO QID:PRN GI upset  
20.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Community acquired pneumonia -- suspect pseudomonas

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with a right middle and lower lobe pneumonia, 
causing hypoxia. Because of your history of a resistant 
pseudomonas pneumonia, you were started on ceftazadime, a broad 
spectrum antibiotic. I checked your sputum cultures, which were 
suspicious for pseudomonas again. As you have now been treated 
with IV antibiotics for 9 days, you are safe for discharge. 
However, I will follow up your culture results with you. If 
there is any resistance (which I do not suspect), we will have 
to come up with a contingency plan, which may mean returning to 
the hospital. Otherwise, you will follow up with the infectious 
disease department to come up with a plan.

Otherwise, you were developed a seizure in the setting of your 
mother becoming acutely ill. I checked your Keppra levels, which 
are not back yet, but otherwise you have been fine. You should 
follow this up with your primary care doctor.
 
Followup Instructions:
___